US05801148
To a solution of 3-(S)-[(benzyloxycarbonyl)amino]-2-(R,S)-hydroxy-4-methylpentanoic acid (1.70 g, 6.04 mmol) and pyridine (4.9 mL) was added acetic anhydride (5.7 mL, 6.17 g, 60.4 mmol) dropwise at room temperature. The reaction was allowed to stir overnight and was diluted with ethyl acetate and washed with water (2×). The organic layer was dried over magnesium sulfate, filtered and evaporated in vacuo to give a thick oil. The residue was purified by column chromatography on silica gel with 15% methanol/dichloromethane to afford 1.56 g (80%) of 3-(S)-[(benzyloxycarbonyl)amino]-2-(R,S)-acetoxy-4-methyl pentanoic acid as a light yellow viscous oil. FAB MS [M+H] m/z; Calcd: 324, Found: 324.

reactant | 3-(S)-[(benzyloxycarbonyl)amino]-2-(R,S)-hydroxy-4-methylpentanoic acid | 6.04 mmol, 1.70 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(C(=O)O)O)C(C)C | C14H19NO5
reactant | pyridine | 4.9 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 60.4 mmol, 5.7 mL, 6.17 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(S)-[(benzyloxycarbonyl)amino]-2-(R,S)-acetoxy-4-methyl pentanoic acid | 1.56 g, 80% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(C(=O)O)OC(C)=O)C(C)C | C16H21NO6
